US04431661
5-(m-Methoxyphenyl)-3,5',5'-trimethyl-spiro[3-azabicyclo[3.2.0]heptane-6,2'-[1,3]dioxane]
A mixture of 1.18 g. of 3-methyl-5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one, 0.78 g. of 2,2-dimethyl-1,3-propanediol and 1.05 g. of p-toluenesulfonic acid in 25 ml. of toluene was heated at reflux under a Dean-Stark trap for 29 hours. The mixture was cooled, diluted with ether, washed with 10% sodium hydroxide, and then with water giving a brown oil. This oil was distilled in a Kugelrohr apparatus at 175° C. and 0.10 mm., giving the desired product as a colorless oil.

reactant | 3-methyl-5-(m-methoxyphenyl)-3-azabicyclo[3.2.0]heptan-6-one | CN1CC2CC(C2(C1)C1=CC(=CC=C1)OC)=O | C14H17NO2
reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 5-(m-Methoxyphenyl)-3,5',5'-trimethyl-spiro[3-azabicyclo[3.2.0]heptane-6,2'-[1,3]dioxane] | COC=1C=C(C=CC1)C12CN(CC1CC21OCC(CO1)(C)C)C | C19H27NO3
